US06096781
2-(3-Isopropoxyphenyl)-4'-Methoxyacetophenone
3-Isopropoxythiophenol and 2-bromo-4'-methoxyacetophenone were converted to the title compound by the procedure of Preparation 1.

reactant | 3-Isopropoxythiophenol | C(C)(C)OC=1C=C(C=CC1)S | C9H12OS
reactant | 2-bromo-4'-methoxyacetophenone | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
product | 2-(3-Isopropoxyphenyl)-4'-Methoxyacetophenone | C(C)(C)OC=1C=C(C=CC1)CC(=O)C1=CC=C(C=C1)OC | C18H20O3
